US07468371B2
6-bromo-1,4-dihydroindeno[1,2-c]pyrazole
To a mixture of a 60% suspension of sodium hydride in mineral oil (6.83 g, 284.8 mmol) and ethylformate (24.2 mL, 284.8 mmol) in benzene (100 mL) at about 0° C. was added a solution of 5-bromo-1-indanone (30.0 g, 142.4 mmol) in benzene (100 mL) over about 90 minutes. The reaction was then stirred for about 17 hours while being allowed to warm to room temperature. The formed precipitate was collected by filtration and was dissolved in ethanol (600 mL). To this solution was added hydrazine monohydrate (17 mL, 350.5 mmol) and acetic acid (19.2 mL, 335.4 mmol) and the reaction mixture was heated under reflux for about 3 hours. The mixture was cooled, concentrated under vacuum and the precipitate was collected by filtration and was dried under high vacuum to provide the desired product. MS (DCI-NH3): m/z 235, 237 (M+H)+.

reactant | sodium hydride | [H-].[Na+]
reactant | ethylformate | 284.8 mmol, 24.2 mL | C(C)OC=O | C3H6O2
reactant | 5-bromo-1-indanone | 142.4 mmol, 30.0 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | hydrazine monohydrate | 350.5 mmol, 17 mL | O.NN
reactant | acetic acid | 335.4 mmol, 19.2 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 6-bromo-1,4-dihydroindeno[1,2-c]pyrazole | BrC=1C=C2CC3=C(NN=C3)C2=CC1 | C10H7BrN2
